US08278473B2
A mixture of 0.5 g (1.85 mmol) of (E)-2-methyl-N-phenyl-3-(phenylthio)-2-propenamide, 0.4 ml of thionyl chloride, 5 mg of DMF, and 10 ml of toluene was refluxed for 1 hour and then concentrated. The residue was dissolved in 5 ml of DMF and cooled to 0° C. To a solution of 277 mg (2.23 mmol) of 2-methylthiophenol in 5 ml of DMF was added 90 mg of sodium hydride (60% in oil) under ice cooling and stirred for 5 minutes. The solution was added portionwise to the above-described DMF solution of the residue under ice cooling and stirred at room temperature for 1 hour. The reaction mixture was poured into water and extracted with tert-butyl methyl ether (three times). The combined organic layer was washed sequentially with water and a saturated NaCl solution, dried over anhydrous MgSO4, and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=20/1) to obtain 573 mg of 2-methylphenyl 2-methyl-N-phenyl-3-(phenylthio)-2-propenimidothioate (hereinafter referred to as the present compound 21).

reactant | (E)-2-methyl-N-phenyl-3-(phenylthio)-2-propenamide | 1.85 mmol, 0.5 g | C/C(/C(=O)NC1=CC=CC=C1)=C\SC1=CC=CC=C1 | C16H15NOS
reactant | thionyl chloride | 0.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methylthiophenol | 2.23 mmol, 277 mg | CC1=C(C=CC=C1)S | C7H8S
reactant | sodium hydride | 90 mg | [H-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | DMF | 5 mg | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methylphenyl 2-methyl-N-phenyl-3-(phenylthio)-2-propenimidothioate | 573 mg | CC(C(=NC1=CC=CC=C1)SC1=C(C=CC=C1)C)=CSC1=CC=CC=C1 | C23H21NS2
